data/mechanisms/records/IMS8-EQ8.97.json
{"mechanism_id": "IMS8-EQ8.97", "species": [{"species_id": "protonated_diethyl_ether", "mapped_smiles": "[CH3:1][CH2:2][OH+:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:1]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_ethanol_ion", "mapped_smiles": "[OH2+:3][CH2:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_diethyl_ether"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral", "protonated_ethanol_ion"]}], "steps": [{"step_id": "step_rH_displacement_ethylene_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_97", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_displacement_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 206, "equation": "8.97", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements (EE+ ion rearrangements)"}, "confidence": 0.8, "curator_note": "NOTE REWRITTEN 2026-07-28 — the previous version contained FABRICATED MEASUREMENTS and a wrong arrow reading; both are retracted here. Eq 8.97: the protonated diethyl ether EE+ ion CH3CH2-O(+)(H)-CH2CH3 eliminates ethylene through a four-membered H/C/C/O array, giving protonated ethanol + C2H4. ARC COUNT: the book draws 2 arcs, one off each participating bond. ARROW TYPE — they are TWO-ELECTRON (heterolytic) arrows, not fishhooks. This is settled by the chemistry, not by pixels: the precursor is a CLOSED-SHELL even-electron ion (charge +1, radical_electrons 0) with NO radical site, so there is no unpaired electron for a single-barbed fishhook to originate from; a fishhook reading is chemically impossible here. It is corroborated by the book's own practice on the FACING page: Eqs 8.94/8.95 draw the SAME four-membered H/C/C/Y array and there the book draws FOUR arcs (two peeling off the C-H bond, two off the Y-C bond) because four single-electron hooks are meant. Eq 8.97 draws exactly TWO. A book that draws four hooks when it means four did not under-draw this scheme: the 8.97 drawing is already complete and balanced as two 2-electron arrows. RETRACTIONS: (1) the previous note claimed head-glyph measurements ('head bulge is 6 px against a 3 px stroke', matching '8.94 hooks (6 px against 3 px)' and unlike 'Equation 8.35, 9 px against a 3 px stroke'). Those numbers are NOT reproducible — an independent scipy distance-transform measurement over the whole eq-8.97 band of the native scan finds a maximum stroke of 5.0 px with the ordinary baseline stroke at ~4.7 px, and no 6-vs-3 discrimination between any arc heads. Arrowhead TYPE is simply unresolved at this scan resolution, so no pixel claim is made. (2) the previous note's consequent claim that 'the page is under-drawn: a balanced flow needs FOUR hooks ... two cross hooks ... NOT drawn on the page' is withdrawn — it followed from the wrong fishhook reading. ENCODING (unchanged and correct): the drawn arc O3-C2 -> C1=C2 is encoded as 2 x 1e moves, which is numerically identical to the single 2-electron arrow the book draws. The other drawn arc (the C1-H bond donating to O3) is not separately encodable because RDKit folds the migrating hydrogen into implicit valence unless it is isotope-tagged, and here it is not mapped. MS-CONTEXT: the page specifies 'threshold-energy ions' (near-threshold / low-internal-energy decomposition); precursor_mz 75.0804 is curator-computed, nothing is printed."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 75.0804, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_47", "species_id": "protonated_ethanol_ion", "step_id": "step_rH_displacement_ethylene_loss", "observed_mz": 47.0491, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
